US05939440
2,5-bis(5-amidino-2-benzimidazolyl) pyrrole;
2,5-bis-[5-(2-imidazolinyl)-2-benzimidazolyl]pyrrole; 2,6-bis[5-(2-imidazolinyl)-2-benzimidazolyl]pyridine; 1-methyl-2,5-bis(5-amidino-2-benzimidazolyl)pyrrole; 1-methyl-2,5-bis[5-(2-imidazolyl)-2-benzimidazolyl]pyrrole; 1-methyl-2,5-bis[5-(1,4,5,6-tetrahydro-2-pyrimidinyl)-2-benzimidazolyl]pyrrole; 2,6-bis(5-amidino-2-benzimidazoyl)pyridine; 2,6-bis[5-(1,4,5,6-tetrahydro-2-pyrimidinyl)-2-benzimidazolyl]pyridine; 2,5-bis(5-amidino-2-benzimidazolyl)furan; 2,5-bis[5-(2-imidazolinyl)-2-benzimidazolyl]furan; 2,5-bis(5-N-isopropylamidino-2-benzimidazolyl)furan; and physiologically acceptable salts thereof. Novel compounds useful for treating C. albicans and for combatting tumors are also disclosed.

reactant | 2,5-bis-[5-(2-imidazolinyl)-2-benzimidazolyl]pyrrole | N1(C=NCC1)C1=CC2=C(N=C(N2)C=2NC(=CC2)C=2NC3=C(N2)C=CC(=C3)N3C=NCC3)C=C1 | C24H21N9
reactant | 2,6-bis[5-(2-imidazolinyl)-2-benzimidazolyl]pyridine | N1(C=NCC1)C1=CC2=C(N=C(N2)C2=NC(=CC=C2)C=2NC3=C(N2)C=CC(=C3)N3C=NCC3)C=C1 | C25H21N9
reactant | 1-methyl-2,5-bis(5-amidino-2-benzimidazolyl)pyrrole | CN1C(=CC=C1C=1NC2=C(N1)C=CC(=C2)C(N)=N)C=2NC1=C(N2)C=CC(=C1)C(N)=N | C21H19N9
reactant | 1-methyl-2,5-bis[5-(2-imidazolyl)-2-benzimidazolyl]pyrrole | CN1C(=CC=C1C=1NC2=C(N1)C=CC(=C2)C=2NC=CN2)C=2NC1=C(N2)C=CC(=C1)C=1NC=CN1 | C25H19N9
reactant | 1-methyl-2,5-bis[5-(1,4,5,6-tetrahydro-2-pyrimidinyl)-2-benzimidazolyl]pyrrole | CN1C(=CC=C1C=1NC2=C(N1)C=CC(=C2)C=2NCCCN2)C=2NC1=C(N2)C=CC(=C1)C=1NCCCN1 | C27H27N9
reactant | 2,6-bis(5-amidino-2-benzimidazoyl)pyridine | C(N)(=N)C1=CC2=C(N=C(N2)C(=O)C2=NC(=CC=C2)C(=O)C=2NC3=C(N2)C=CC(=C3)C(N)=N)C=C1 | C23H17N9O2
reactant | 2,6-bis[5-(1,4,5,6-tetrahydro-2-pyrimidinyl)-2-benzimidazolyl]pyridine | N1C(=NCCC1)C1=CC2=C(N=C(N2)C2=NC(=CC=C2)C=2NC3=C(N2)C=CC(=C3)C=3NCCCN3)C=C1 | C27H25N9
reactant | 2,5-bis(5-amidino-2-benzimidazolyl)furan | C(N)(=N)C1=CC2=C(N=C(N2)C=2OC(=CC2)C=2NC3=C(N2)C=CC(=C3)C(N)=N)C=C1 | C20H16N8O
reactant | 2,5-bis[5-(2-imidazolinyl)-2-benzimidazolyl]furan | N1(C=NCC1)C1=CC2=C(N=C(N2)C=2OC(=CC2)C=2NC3=C(N2)C=CC(=C3)N3C=NCC3)C=C1 | C24H20N8O
product | 2,5-bis(5-amidino-2-benzimidazolyl) pyrrole | C(N)(=N)C1=CC2=C(N=C(N2)C=2NC(=CC2)C=2NC3=C(N2)C=CC(=C3)C(N)=N)C=C1 | C20H17N9
